US06294668B1
(E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-thiophen-2-yl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid
To a suspension of 300.0 mg (0.86 mmol) (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid in 8 ml N,N-dimethylformamide was added 80.0 mg (0.95 mmol) sodium bicarbonate. After cooling to 0° C. 101.0 μl (0.95 mmol) 2-thiopheneacetyl chloride were added. After 1.5 h the solvent was stripped off at a rotary evaporator and the residue was poured on diethyl ether. The solid was collected by filtration and was triturated with 25 ml ethyl acetate and 15 ml water for 1.5 h.

reactant | (E)-(6R,7R)-7-amino-3-(1-cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-5-thia-1-azabicyclo-[4.2.0]oct-2-ene-2-carboxylic acid | 0.86 mmol, 300.0 mg | N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)/C=C\1/C(N(CC1)CC1CC1)=O | C16H19N3O4S
reactant | sodium bicarbonate | 0.95 mmol, 80.0 mg | C([O-])(O)=O.[Na+]
reactant | 2-thiopheneacetyl chloride | 0.95 mmol, 101.0 μl | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
solvent | N,N-dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | (E)-(6R,7R)-3-(1-Cyclopropylmethyl-2-oxo-pyrrolidin-3-ylidenemethyl)-8-oxo-7-(2-thiophen-2-yl-acetylamino)-5-thia-1-aza-bicyclo[4.2.0]oct-2-ene-2-carboxylic acid | C1(CC1)CN1C(\C(\CC1)=C\C1=C(N2C([C@H]([C@H]2SC1)NC(CC=1SC=CC1)=O)=O)C(=O)O)=O | C22H23N3O5S2
